US08497271B2
Part E. [(R)-1-(4-Hydroxy-phenyl)-2-(4-methyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester
To a solution of [(R)-1-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-(4-methyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester (370 mg, 0.82 mmol) in THF (3 ml) was added TBAF (1M in THF, 1 ml, 1 mmol). The resulting mixture was stirred at rt for 3 h. The reaction mixture was diluted with ether and quenched with aq. NH4Cl. The organic layer was washed with water and brine, and then dried over MgSO4. Removal of the solvent provided the titled compound.

reactant | [(R)-1-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-2-(4-methyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 0.82 mmol, 370 mg | C(C)(C)(C)OC(N[C@@H](CN1CCN(CC1)C)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C24H43N3O3Si
reactant | TBAF | 1 mmol, 1M, 1 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [(R)-1-(4-Hydroxy-phenyl)-2-(4-methyl-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CN1CCN(CC1)C)C1=CC=C(C=C1)O)=O | C18H29N3O3
